US07531532B2
Benzyl N-[4-(6-aminopyrimidin-4-yloxy)-2-fluorophenyl]carbamate
After dissolving 4-amino-6-(4-amino-3-fluorophenoxy)pyrimidine (730 mg) in acetone (60 ml)-water (30 ml), sodium hydrogencarbonate (335 mg) and benzyl chloroformate (0.550 ml) were added while cooling in an ice water bath and the mixture was stirred at the same temperature. After 3.5 hours, sodium hydrogencarbonate (140 mg) and benzyl chloroformate (0.120 ml) were added and stirring was continued for 1 hour. The reaction mixture was concentrated under reduced pressure, ethyl acetate (50 ml)-tetrahydrofuran (100 ml) and saturated aqueous sodium hydrogencarbonate (50 ml) were added to the residue, and the mixture was stirred. The organic layer was separated and washed with a small amount of brine, and then the organic layer was concentrated under reduced pressure. Ethyl acetate (25 ml) was added to the residue and the mixture was stirred. The precipitated insoluble portion was filtered prior to washing with ethyl acetate (5 ml×3). The filtrate was concentrated under reduced pressure and the resultant residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=1:2 to 1:4) to provide the title compound (514 mg, 44%) as pale brown powder.

reactant | 4-amino-6-(4-amino-3-fluorophenoxy)pyrimidine | 730 mg | NC1=NC=NC(=C1)OC1=CC(=C(C=C1)N)F | C10H9FN4O
reactant | sodium hydrogencarbonate | 335 mg | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 0.550 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | sodium hydrogencarbonate | 140 mg | C(O)([O-])=O.[Na+]
reactant | benzyl chloroformate | 0.120 ml | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | acetone | 60 ml | CC(=O)C | C3H6O
solvent | water | 30 ml | O | H2O
product | Benzyl N-[4-(6-aminopyrimidin-4-yloxy)-2-fluorophenyl]carbamate | 514 mg, 44% | NC1=CC(=NC=N1)OC1=CC(=C(C=C1)NC(OCC1=CC=CC=C1)=O)F | C18H15FN4O3
